US06562989B2
N-(2,6-dimethylphenyl)-n-hexylamine (Table 7, Entry 10)
According to the general procedure B, 2-Chloro-m-xylene (70 mg, 0.50 mmol) reacted with n-hexylamine (80 μl, 0.60 mmol) using 2 mol % of Pd(OAc)2, 4 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (58 mg, 0.60 mmol) in toluene (1.5 ml) at 100° C. to give the title compound (100 mg, 97%) as a colorless oil: 1H-NMR (400 MHz, CDCl3): δ 7.02 (d, 2H, J=7.2 Hz), 6.83 (t, 1H, J=7.2 Hz), 3.00 (t, 2H, J=7.2 and 7.6 Hz), 3.0 (bs, 1H), 2.32 (s, 6H), 1.61 (m, 2H), 1.45-1.31 (m, 6H), 0.93 (t, 3H, J=5.6 and 7.2 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 146.37, 129.05, 128.75, 121.52, 48.69, 31.73, 31.14, 26.83, 22.62, 18.54, 14.03. GC/MS(EI): m/z 205 (M+).

reactant | 2-Chloro-m-xylene | 0.50 mmol, 70 mg | ClC1=C(C=CC=C1C)C | C8H9Cl
reactant | n-hexylamine | 0.60 mmol, 80 μl | C(CCCCC)N | C6H15N
reactant | sodium tert-butoxide | 0.60 mmol, 58 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-(2,6-dimethylphenyl)-n-hexylamine | 100 mg, 97% | CC1=C(C(=CC=C1)C)NCCCCCC | C14H23N
